US07371872B2
Add a solution of t-butyl methylmalonate (129 g, 0.75 mol) in THF (385 mL) to a slurry of LiH (14.9 g, 1.875 mol) in THF (900 mL) and N,N-dimethylpropylene urea (DMPU, 155 g, 1.2 mol) over 30 minutes while maintaining the temperature at 0-5° C. Heat the reaction mixture to 65° C. and add a solution of cis-1,4-dichloro-2-butene (95%, 100 g, 0.8 mol, 1.08 eq) in THF (100 mL) over 5.5 hours, maintaining the temperature at 63-67° C. Stir the reaction for 4 hours at 65° C. A water/MTBE work-up of the reaction mixture yields 1-(methoxycarbonyl)-1-(tert-butoxycarbonyl)cyclopent-3-ene.

reactant | t-butyl methylmalonate | 0.75 mol, 129 g | CC(C(=O)OC(C)(C)C)C(=O)[O-]
reactant | LiH | 1.875 mol, 14.9 g | [H-].[Li+]
reactant | N,N-dimethylpropylene urea | 1.2 mol, 155 g | CC1CN1C(=O)N(C)C | C6H12N2O
reactant | cis-1,4-dichloro-2-butene | 0.8 mol, 100 g, 1.08 eq | ClC\C=C/CCl | C4H6Cl2
solvent | THF | 385 mL | C1CCOC1 | C4H8O
solvent | THF | 900 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water MTBE | O.CC(C)(C)OC
product | 1-(methoxycarbonyl)-1-(tert-butoxycarbonyl)cyclopent-3-ene | COC(=O)C1(CC=CC1)C(=O)OC(C)(C)C | C12H18O4
